US04595521
A mixture of 86 g of diethyl maleate, 144 g of butyraldehyde and 4 g of dibenzoyl peroxide was boiled at reflux for 20 hours. After completion of the reaction, the excess butyraldehyde was firstly distilled off over a Vigreux column and then the yellow coloured crude product was taken up in 250 ml of hexane and washed with 200 ml of 5% (wt./vol.) sodium hydrogen carbonate solution and 200 ml of water. The aqueous phases were back-extracted with a small amount of hexane. The combined organic phases were dried over sodium sulphate and freed from solvent on a rotary evaporator. Distillation of the resulting crude product in a high vacuum over a Vigreux column gave 104.5 g (85.6%) of diethyl 2-butyrylsuccinate as a slightly yellow coloured liquid; b.p. 84°-90° C./0.08 Torr.

reactant | diethyl maleate | 86 g | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
reactant | butyraldehyde | 144 g | C(CCC)=O | C4H8O
catalyst | dibenzoyl peroxide | 4 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | diethyl 2-butyrylsuccinate | 104.5 g, 85.6% | C(CCC)(=O)C(C(=O)OCC)CC(=O)OCC | C12H20O5
